US07485661B2
Step 4 Methyl 5-cyano-4-[2-(diphenylmethylene)hydrazino]-2-furoate
Palladium acetate (2.098 g; 9.347 mmol), DPPF (10.36 g; 18.69 mmol) and cesium carbonate (85.27 g; 0.262 mmol) were charged in a dry reaction flask under argon. A preformed dry solution of methyl 4-bromo-5-cyano-2-furoate (43.00 g, 0.187 mol) and benzophenone hydrazone (44.02 g, 0.224 mol) in 1.2 L of toluene was transferred via cannula into the reaction flask. The resulting suspension was vigorously stirred at 100-104° C. for 45 hours under argon. The reaction mixture was cooled to about 70° C., added with 65 g of Dicalite® and filtered; the panel was washed twice with hot toluene (400 mL). The filtrate was concentrated under vacuum to a small volume and kept at +4° C. for 18 hours. The solid was collected by filtration and washed with 60 mL of toluene to yield 53.52 g of yellowish product.

reactant | cesium carbonate | 0.262 mmol, 85.27 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-bromo-5-cyano-2-furoate | 0.187 mol, 43.00 g | BrC=1C=C(OC1C#N)C(=O)OC | C7H4BrNO3
reactant | benzophenone hydrazone | 0.224 mol, 44.02 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | Dicalite | 65 g | O=[Si]=O | O2Si
solvent | toluene | 1.2 L | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 9.347 mmol, 2.098 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | DPPF | 18.69 mmol, 10.36 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | Methyl 5-cyano-4-[2-(diphenylmethylene)hydrazino]-2-furoate | 53.52 g, Yield=82.8% | C(#N)C1=C(C=C(O1)C(=O)OC)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H15N3O3
